US07399867B2
2-Benzo[b]thiophen-5-yl-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane
Dissolve 5-bromo-benzo[b]thiophene (J. Mater. Chem., 10:2069-2081, 2000; 49 g, 7.0 mmol) in DMSO (40 mL). Add bis(pinacolato)diboron (7 mmol), PdCl2(dppf).CH2Cl2 (0.33 mmol), and KOAc (20 mmol). Flush the flask with N2, and then heat the reaction mixture to 80° C. with stirring. Continue to heat the reaction mixture for 3 hours, and then cool to room temperature. Add water (66 mL) and extract the aqueous layer with EtOAc (3×66 mL). Combine the organic layers and dry with Na2SO4, filter, concentrate and purify by flash column chromatography (silica gel, 0-5% Et2O/pentane) to give 1.56 g of the title compound (86%).

reactant | 5-bromo-benzo[b]thiophene | 7.0 mmol, 49 g | BrC1=CC2=C(SC=C2)C=C1 | C8H5BrS
reactant | bis(pinacolato)diboron | 7 mmol | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | KOAc | 20 mmol | CC(=O)[O-].[K+]
solvent | DMSO | 40 mL | CS(=O)C | C2H6OS
catalyst | PdCl2(dppf) | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
catalyst | CH2Cl2 | 0.33 mmol | C(Cl)Cl | CH2Cl2
product | 2-Benzo[b]thiophen-5-yl-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane | 1.56 g, 86% | S1C2=C(C=C1)C=C(C=C2)B2OC(C(O2)(C)C)(C)C | C14H17BO2S
